US06107291
To a solution of 3-Formyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester (310 mg, 0.78 mmoL) in 8.1 mL benzene was added (Carboethoxymethylene) triphenylphosphorane (408 mg, 1.17 mmoL) at ambient temperature. An additional 310 mg was added after 24 hours, after which the reaction was allowed to proceed for 72 hours. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph (silica: 18% to 25% ethyl acetate in hexanes) to yield 3-(2-Ethoxycarbonyl-vinyl)-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester; MS: (M+H)+ =468, (M+NHY4)- =485.

reactant | 3-Formyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | 310 mg | C(C)(C)(C)OC(=O)C1N(CCCCC1C=O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H27NO6S
reactant | (Carboethoxymethylene) triphenylphosphorane | 408 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | benzene | 8.1 mL | C1=CC=CC=C1 | C6H6
product | 3-(2-Ethoxycarbonyl-vinyl)-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1C=CC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)OC | C23H33NO7S
